US06057447
4-[2-(4-Benzyloxyphenyl)-2-oxoethylthio]quinoline (Compound 1)
Quinoline-4(1H)-thione (3.50 g, 21.9 mmol) and potassium carbonate (3.95 g, 28.5 mmol) were suspended in dry acetone(350 ml). 1-Benzyloxy-4-bromoacetylbenzene (8.00 g, 26.3 mmol) was gradually added to the suspension under ice cooling and stirred at room temperature overnight. The solvent was removed under reduced pressure. The residue was added with water, extracted with ethyl acetate, washed with saturated saline solution, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was chromatographed by silica gel column chromatography (n-hexane:ethyl acetate=1:4) and recrystallized from ethyl acetate to obtain 5.43 g of the titled compound (64.4%) as yellow-white crystal.

reactant | Quinoline-4(1H)-thione | 21.9 mmol, 3.50 g | N1C=CC(C2=CC=CC=C12)=S | C9H7NS
reactant | potassium carbonate | 28.5 mmol, 3.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-Benzyloxy-4-bromoacetylbenzene | 26.3 mmol, 8.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CBr)=O | C15H13BrO2
solvent | acetone | 350 ml | CC(=O)C | C3H6O
product | 4-[2-(4-Benzyloxyphenyl)-2-oxoethylthio]quinoline | 5.43 g, 64.4% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CSC1=CC=NC2=CC=CC=C12)=O | C24H19NO2S
